US04284642
1-(2',6'-Dimethylphenyl)-2-imino-3-(2',4',6'-trimethylphenyl)-4-methyl-imidazolidine
1-(2',6'-Dimethylphenyl-amino)-2-(2',4',6'-trimethylphenyl-amino)-propane, applied as starting substance, is prepared by reacting N-(β-chloropropyl)-2,6-dimethyl-aniline, a compound prepared according to Example 3, Method (b), point (a), with 2,4,6-trimethylaniline under the conditions specified in Example 16, point (c). The aimed compound is obtained with a yield of 87.6%; m.p.: 128°-130° C. (dihydrochloride).

reactant | 1-(2',6'-Dimethylphenyl-amino)-2-(2',4',6'-trimethylphenyl-amino)-propane | CC1=C(C(=CC=C1)C)NCC(C)NC1=C(C=C(C=C1C)C)C | C20H28N2
reactant | N-(β-chloropropyl)-2,6-dimethyl-aniline | ClC(CNC1=C(C=CC=C1C)C)C | C11H16ClN
reactant | 2,4,6-trimethylaniline | CC1=C(N)C(=CC(=C1)C)C | C9H13N
product | 1-(2',6'-Dimethylphenyl)-2-imino-3-(2',4',6'-trimethylphenyl)-4-methyl-imidazolidine | yield of 87.6% | CC1=C(C(=CC=C1)C)N1C(N(C(C1)C)C1=C(C=C(C=C1C)C)C)=N | C21H27N3
